US04230703
Synthesis of ethyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetate
A mixture of N-methyl-N-(2-cyanobenzyl)-4-ethoxycarbonylmethylaniline (6 g) and polyphosphoric acid (60 g) was stirred for 2 hours with heating at 130°-140° C. After the reaction, the reaction mixture was poured into iced water (500 ml) to precipitate crystals. The crystals were collected, washed in water, and then vacuum-dried over diphosphorus pentoxide to obtain the desired compound (2.5 g) as yellow prismatic crystals.

reactant | N-methyl-N-(2-cyanobenzyl)-4-ethoxycarbonylmethylaniline | 6 g | CN(C1=CC=C(C=C1)CC(=O)OCC)CC1=C(C=CC=C1)C#N | C19H20N2O2
reactant | water | 500 ml | O | H2O
product | ethyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetate | 2.5 g | CN1C2=C(C(C3=C(C1)C=CC=C3)=O)C=C(C=C2)CC(=O)OCC | C19H19NO3
